US07576122B2
Step C: 2-(2-Benzoyl-5-methoxy-1-benzofuran-3-yl)-N,N-dibutylacetamide
To a mixture of 10.6 mg (2-benzoyl-5-methoxy-1-benzofuran-3-yl)acetic acid from the Step B above, 7.8 mg HOBt and 13.1 mg EDC were added 6.6 mg dibutylamine and 0.5 mL DMF followed by 21 μL DIEA. After stirring at room temperature over night, it was heated in a 55° C. oil bath for 8 hours. It was purified directly on RP-HPLC using 60-95% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. 1H NMR (CDCl3, 500 MHz) 8.10˜8.13 (m, 2H), 7.62˜7.66 (m, 1H), 7.53˜7.57 (m, 2H), 7.45 (d, J=8.9 Hz, 1H), 7.275 (d, J=2.7 Hz, 1H), 7.14 (dd, J=2.7 & 9.1 Hz, 1H), 4.39 (s, 2H), 3.89 (s, 3H), 3.43˜3.47 (m, 2H), 3.37˜3.40 (m, 2H), 1.51˜1.61 (m, 4H), 1.26˜1.38 (m, 4H), 0.94 (t, J=7.3 Hz, 3H), 0.90 (t, J=7.3 Hz, 3H). LC-MS: 4.24 min. (m/Z=422.3, 444.3).

reactant | (2-benzoyl-5-methoxy-1-benzofuran-3-yl)acetic acid | 10.6 mg | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC | C18H14O5
reactant | HOBt | 7.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dibutylamine | 6.6 mg | C(CCC)NCCCC | C8H19N
reactant | DIEA | 21 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EDC | 13.1 mg
product | 2-(2-Benzoyl-5-methoxy-1-benzofuran-3-yl)-N,N-dibutylacetamide | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1CC(=O)N(CCCC)CCCC)C=C(C=C2)OC | C26H31NO4
